US07157447B2
N-(2-(3-(Dimethylamino)prop-1-ynyl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
A solution of intermediate 183, 3-[2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl]prop-2-ynyl methanesulfonate (0.100 g, 0.18 mmol) in acetonitrile (5 ml) was treated at 22° C. with 0.3 ml (0.6 mmol) of a 2 M solution of dimethylamine in tetrahydrofuran and the resulting mixture was stirred for 30 min. The reaction mixture was then diluted with ethyl acetate, washed with saturated sodium bicarbonate, brine, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 0.080 g (88% yield) of the title material as a white solid. 1HNMR 400 MHz (CDCl3) δ ppm: 1.64 (6H, s, 2×CH3), 2.43 (6H, s, 2×NCH3), 3.58 (2H, broad s, CH2), 4.05 (4H, m, 2×CH2), 4.70 (2H, d, J=6.0 Hz, NCH2), 5.30 (2H, s, OCH2), 7.01 (1H, m, aromatic), 7.18 (1H,dd, J=3 Hz and J=9.1 Hz, aromatic), 7.32–7.38 (4H, m, aromatics), 7.50–7.53 (2H, m, aromatics), 7.79 (1H, broad t, NH). HRMS (ESI+) calculated for C29H32FN4O4 [M+H+]: 519.2408. found: 519.2407.

reactant | 3-[2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl]prop-2-ynyl methanesulfonate | 0.18 mmol, 0.100 g | CS(=O)(=O)OCC#CC1=C(C=CC(=C1)F)CNC(=O)C=1N=C2C(OCCN2C(C1OCC1=CC=CC=C1)=O)(C)C | C28H28FN3O7S
reactant | dimethylamine | CNC | C2H7N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-(3-(Dimethylamino)prop-1-ynyl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.080 g, 88% yield | CN(CC#CC1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC(=C1)F)C | C29H31FN4O4
